US07026314B2
6-Methoxy-8-(4-methyl-piperazin-1-yl)-4-oxo-4H-chromene-2-carboxylic acid {4-[4-(1-morpholin-4-yl-methanoyl)-piperazin-1-yl]-phenyl}-amide
This compound was prepared from 6-methoxy-8-(4-methyl-piperazin-1-yl)-4-oxo-4H-chromene-2-carboxylic acid (4-piperazin-1-yl-phenyl)-amide (Example 431 and commercially available morpholine-4-carbonyl chloride (Aldrich) via the parallel synthesis described above. MS−base peak at m/z=591 by positive ion CI.

reactant | 6-methoxy-8-(4-methyl-piperazin-1-yl)-4-oxo-4H-chromene-2-carboxylic acid (4-piperazin-1-yl-phenyl)-amide | N1(CCNCC1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C=C(C=C2C(C1)=O)OC)N1CCN(CC1)C | C26H31N5O4
reactant | morpholine-4-carbonyl chloride | N1(CCOCC1)C(=O)Cl | C5H8ClNO2
product | 6-Methoxy-8-(4-methyl-piperazin-1-yl)-4-oxo-4H-chromene-2-carboxylic acid {4-[4-(1-morpholin-4-yl-methanoyl)-piperazin-1-yl]-phenyl}-amide | N1(CCOCC1)C(=O)N1CCN(CC1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C=C(C=C2C(C1)=O)OC)N1CCN(CC1)C | C31H38N6O6
